US06426345B1
A suspension of 4-[3-(4-acetylaminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (963 mg) in 3N hydrochloric acid (25 ml) was stirred under reflux for 3 hours. Then the mixture was poured into ice-water and alkalinized with sodium bicarbonate. The resultant solid was collected and washed with water to give 4-[3-(4-aminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (577 mg).

reactant | 4-[3-(4-acetylaminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 963 mg | C(C)(=O)NC1=CC=C(C=C1)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C28H22N4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3N, 25 ml | Cl | ClH
product | 4-[3-(4-aminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 577 mg | NC1=CC=C(C=C1)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C26H20N4O
